US08420655B2
To a round bottom flask is added 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzonitrile (200 mg, 0.565 mmol) in DMF (3 mL), follow by the addition of NaN3 (48 mmol, 0.738 mmol) and NH4Cl (39 mg, 0.729 mmol). The reaction mixture is stirred at 110° C. for 48 hours. The reaction mixture is diluted with EtOAc/water. The organic layer is separated, washed with water then brine, dried with Na2SO4, filtered and concentrated to afford 5-bromo-1-tert-butyl-2-[2-(2H-tetrazol-5-yl)-phenyl]-1H-benzimidazole (190 mg, 85%) as a solid product. LCMS (ESMS): m/z 397.49, 399.40 (M++1)

reactant | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-benzonitrile | 0.565 mmol, 200 mg | BrC1=CC2=C(N(C(=N2)C2=C(C#N)C=CC=C2)C(C)(C)C)C=C1 | C18H16BrN3
reactant | NaN3 | 48 mmol | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 0.729 mmol, 39 mg | [NH4+].[Cl-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc water | CCOC(=O)C.O
product | 5-bromo-1-tert-butyl-2-[2-(2H-tetrazol-5-yl)-phenyl]-1H-benzimidazole | 190 mg, 85% | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C=2N=NNN2)C(C)(C)C)C=C1 | C18H17BrN6
